US08202868B2
4-{4-[3-(4-Benzyloxy-pyrimidin-2-yloxy)-propyl]-piperazin-1-yl}-2-tert-butyl-6-cyclopropyl-pyrimidine
0.5 g of 3-[4-(2-tert-Butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol (1.57 mmol) were dissolved in 5 ml of tetrahydrofuran. 1.5 ml of n-butyllithium (15% in hexane) were added to the mixture at 0° C. Stirring was continued for 30 min and then 0.45 g of 4-benzyloxy-2-methanesulfonyl-pyrimidine (1.7 mmol) dissolved in 5 ml of tetrahydrofuran were added. The reaction was stirred overnight at room temperature and for an additional 2 h at 40° C. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and the solvent was evaporated. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (0-3%) as eluent to yield 0.6 g of the title compound.

reactant | 3-[4-(2-tert-Butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol | 1.57 mmol, 0.5 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCO)C1CC1 | C18H30N4O
reactant | n-butyllithium | 1.5 ml | C(CCC)[Li]
reactant | 4-benzyloxy-2-methanesulfonyl-pyrimidine | 1.7 mmol, 0.45 g | C(C1=CC=CC=C1)OC1=NC(=NC=C1)S(=O)(=O)C | C12H12N2O3S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-{4-[3-(4-Benzyloxy-pyrimidin-2-yloxy)-propyl]-piperazin-1-yl}-2-tert-butyl-6-cyclopropyl-pyrimidine | 0.6 g | C(C1=CC=CC=C1)OC1=NC(=NC=C1)OCCCN1CCN(CC1)C1=NC(=NC(=C1)C1CC1)C(C)(C)C | C29H38N6O2
